US05041455
B. 3-(4-acetylamino-1,2,5-oxadiazol-3-yl)-1-methylpyridinium iodide
Methyl iodide (450 μl, 7.2 mmol) was added to a solution of 3-(4-acetylamino-1,2,5-oxadiazol-3-yl)pyridine (490 mg, 2.4 mmol) in acetone. The reaction mixture was stirred at room temperature for 18 h and the precipitate collected by filtration. Yield: 640 mg (77%).

reactant | Methyl iodide | 7.2 mmol, 450 μl | CI | CH3I
reactant | 3-(4-acetylamino-1,2,5-oxadiazol-3-yl)pyridine | 2.4 mmol, 490 mg | C(C)(=O)NC=1C(=NON1)C=1C=NC=CC1 | C9H8N4O2
solvent | acetone | CC(=O)C | C3H6O
product | 3-(4-acetylamino-1,2,5-oxadiazol-3-yl)-1-methylpyridinium iodide | [I-].C(C)(=O)NC=1C(=NON1)C=1C=[N+](C=CC1)C | InChI=1S/C10H10N4O2.HI/c1-7(15)11-10-9(12-16-13-10)8-4-3-5-14(2)6-8;/h3-6H,1-2H3;1H
